US05017724
25.00 Grams of 8-hydroxy-5-methyl-9-methylamino-7-(1-methyl-2-propenyl)-1,2,3,4,4a,9a-hexahydrofluorene was dissolved in 250 ml of chloroform. Under ice-cooling and stirring, to the solution were added 24.4 ml of triethylamine and then 14.95 ml of acetyl chloride, followed by stirring at room temperature for 1 hour. Extraction was carried out with addition of water and the organic layer was concentrated. The resulting residue was dissolved in 250 ml of methanol and thereto was added an aqueous solution containing 1.36 g of sodium bicarbonate in 50 ml of water, followed by refluxing for 2 hours. The reaction mixture was rendered weakly acidic with addition of dilute hydrochloric acid and extracted with chloroform. The organic layer was dried with magnesium sulfate, filtered and concentrated. The resulting residue was purified by a silica gel column chromatography (eluent: chloroform:methanol:ethyl acetate=100:1:5). The component of Rf value 0.29 in the eluate was recrystallized from ethanol to obtain 1.66 g of 8-hydroxy-5-methyl-9-(N-methyl-N-acetylamino)-7-(1-methyl-2-propenyl)-1,2,3,4,4a,9a-hexahydrofluorene (diastereomer B) having a melting point of 143°-145° C. and of colorless powdery crystal and the component of Rf value 0.21 was recrystallized from ethanol to obtain 16.43 g of 8-hydroxy-5-methyl-9-(N-methyl-N-acetylamino)-7-(1-methyl-2-propenyl)-1,2,3,4,4a,9a-hexahydrofluorene (diastereomer A) having a melting point of 166°-168° C. and of colorless granular crystal.

reactant | 8-hydroxy-5-methyl-9-methylamino-7-(1-methyl-2-propenyl)-1,2,3,4,4a,9a-hexahydrofluorene | OC=1C(=CC(=C2C3CCCCC3C(C12)NC)C)C(C=C)C | C19H27NO
reactant | triethylamine | 24.4 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 14.95 ml | C(C)(=O)Cl | C2H3ClO
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | 8-hydroxy-5-methyl-9-(N-methyl-N-acetylamino)-7-(1-methyl-2-propenyl)-1,2,3,4,4a,9a-hexahydrofluorene | 1.66 g | OC=1C(=CC(=C2C3CCCCC3C(C12)N(C(C)=O)C)C)C(C=C)C | C21H29NO2
